US03941803
In the manner given in Preparation 1, 2-amino-5-nitrobenzophenone is refluxed with hydrazine hydrate in diethylene glycol to give 2-amino-5-nitrobenzophenone hydrazone.

reactant | 2-amino-5-nitrobenzophenone | NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)[N+](=O)[O-] | C13H10N2O3
reactant | hydrazine hydrate | O.NN
solvent | diethylene glycol | C(COCCO)O | C4H10O3
product | 2-amino-5-nitrobenzophenone hydrazone | NC1=C(C(C2=CC=CC=C2)=NN)C=C(C=C1)[N+](=O)[O-] | C13H12N4O2
